### PR TITLE
Univ generic corec

### PR DESCRIPTION
**Pull request by Equilibris**
Draft PR: Adding variable universe corecursor for PFunctor

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/TypeVec.lean [hunk 1]
```diff
@@ -644,12 +729,10 @@ theorem prod_map_id {α β : TypeVec n} : (@TypeVec.id _ α ⊗' @TypeVec.id _ 
...
+  funext i
   induction i with
-  | fz => simp [comp, diagSub, subtypeVal, prod.diag]
-  | fs _ i_ih =>
-    simp only [comp, subtypeVal, diagSub, prod.diag] at *
-    apply i_ih
+  | fz => rfl
+  | fs _ i_ih => apply i_ih
 
 @[simp]
```
Comment (alexkeizer) [inline Mathlib/Data/TypeVec.lean:737]: This looks like an unrelated cleanup of the proof, am I correct?

If this is not actually necessary for your desired change, it's best not to include it in the PR, as it'll just be a distraction and make reviewing it harder (despite it looking like a good cleanup).

This would make for a very nice first extracted PR, though: it's super self-contained and an obvious improvement

File: Mathlib/Data/TypeVec.lean [hunk 2]
```diff
@@ -669,7 +752,7 @@ theorem subtypeVal_toSubtype {α : TypeVec n} (p : α ⟹ «repeat» n Prop) :
 theorem toSubtype_of_subtype_assoc
     {α β : TypeVec n} (p : α ⟹ «repeat» n Prop) (f : β ⟹ Subtype_ p) :
     @toSubtype n _ p ⊚ ofSubtype _ ⊚ f = f := by
-  rw [← comp_assoc, toSubtype_of_subtype]; simp
+  rw [← comp_assoc, toSubtype_of_subtype]; rfl
```
Comment (alexkeizer) [inline Mathlib/Data/TypeVec.lean:755]: idem ditto here, if you extract the previous cleanup in a standalone PR, include this cleanup, too!

In general, have a look through the diff, and extract all such cleanups. If there's just a few, you could create a single "chore: clean TypeVec proofs" PR, but if there's a lot, it'd be better to even split them up in a few clean-up PRs. Especially as a new contributor, it's super helpful to start with very small, obvious PRs to get used to the process (and build trust with reviewers).

File: Mathlib/Data/TypeVec.lean [hunk 3]
```diff
@@ -45,40 +45,50 @@ namespace TypeVec
...
+variable {α : TypeVec.{u} n} {β : TypeVec.{v} n} {γ : TypeVec.{w} n} {δ : TypeVec.{x} n} in
+section
+
 /-- Extensionality for arrows -/
 @[ext]
-theorem Arrow.ext {α β : TypeVec n} (f g : α ⟹ β) :
-    (∀ i, f i = g i) → f = g := by
-  intro h; funext i; apply h
+theorem Arrow.ext (f g : α ⟹ β) :
+    (∀ i, f i = g i) → f = g := funext
```
Comment (alexkeizer) [inline Mathlib/Data/TypeVec.lean:60]: Another cleanup, right? See preceding comment

File: Mathlib/Data/TypeVec.lean [hunk 4]
```diff
@@ -45,40 +45,50 @@ namespace TypeVec
 variable {n : ℕ}
 
 /-- arrow in the category of `TypeVec` -/
-def Arrow (α β : TypeVec n) :=
+def Arrow (α : TypeVec.{u} n) (β : TypeVec.{v} n) :=
   ∀ i : Fin2 n, α i → β i
```
Comment (alexkeizer) [inline Mathlib/Data/TypeVec.lean:49]: Once you've extracted the cleanup PRs, you could start by extracting *just* this change (and all other TypeVec changes that are then needed to make Lean happy again) as a first feature PR, e.g.: `feat: Generalize TypeVec.Arrow to multiple universes`

**Review by alexkeizer — COMMENTED** [review]
I did a quick skim, and left some suggestions for parts that you can extract into separate, smaller PRs!

File: Mathlib/Data/TypeVec.lean (hunk 4 above)
Comment (Equilibris) [reply Mathlib/Data/TypeVec.lean:49]: This is already in a separate PR.
